US05382590
The procedure is analogous to that described in Example 1, but 1.0 g of 2-amino-N-[2-(4,4-dimethylpiperidino)-2-oxoethyl]-N-phenylacetamide and 0.44 g of 3-methylphenyl isocyanate are used as the starting material. After recrystallization from an ethyl acetate/acetonitrile mixture (50-50 by volume), 0.7 g of N-[2-(4,4-dimethylpiperidino)-2-oxoethyl]-2-[3-(3-methylphenyl)ureido]-N-phenylacetamide melting at 205° C is obtained.

reactant | 2-amino-N-[2-(4,4-dimethylpiperidino)-2-oxoethyl]-N-phenylacetamide | 1.0 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)N1CCC(CC1)(C)C | C17H25N3O2
reactant | 3-methylphenyl isocyanate | 0.44 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-[2-(4,4-dimethylpiperidino)-2-oxoethyl]-2-[3-(3-methylphenyl)ureido]-N-phenylacetamide | 0.7 g | CC1(CCN(CC1)C(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O)C | C25H32N4O3
